US06008267
The compound phenoxyethylvinylether is prepared by reacting chloroethylvinylether with sodium phenate, followed by polymerization in dichloromethane initiated with TiCl4 at -10° C. By reacting 8.2 g of the polymer with 9.8 g of phenyliodosotoluene sulfonate in 40 mL of a mixture of an equal volume of acetic acid and dichloromethane. A polyiodonium is obtained which is precipitated with ether. The ionic exchange reaction is carried similarly to that of example 3 between 12 g of polymer and 7 g of sodium bis(trifluoromethanesulfonyl)imide. After precipitation and washing with water, there is obtained a sticky mass which is used in a 50% solution of methylethylketone.

reactant | chloroethylvinylether | ClCCOC=C | C4H7ClO
reactant | sodium phenate | C1=CC=C(C=C1)[O-].[Na+]
reactant | phenyliodosotoluene sulfonate | 9.8 g | C1(=CC=CC=C1)C=1C(=C(C(=CC1)C)S(=O)(=O)[O-])I=O
reactant | sodium bis(trifluoromethanesulfonyl)imide | 7 g | [N-](S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F.[Na+]
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | TiCl4 | Cl[Ti](Cl)(Cl)Cl
solvent | methylethylketone | CC(=O)CC | C4H8O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | phenoxyethylvinylether | O(C1=CC=CC=C1)CCOC=C | C10H12O2
